US04555572
6-Chloro-2-[(4-methoxyphenyl)amino]-3-nitrobenzoic acid
To 74 g (0.60 mol) of p-anisidine, stirred mechanically at 75 degrees, was added 35.4 g (0.15 mol) of 2,6-dichloro-3-nitrobenzoic acid [Lehmstedt and Schrader, Berichte 70B, 1526 (1937)]in small portions over one-half hour. The mixture was heated at 75 degrees for 24 hours, with stirring during the first two hours. The reaction mixture was cooled, the solid mass shattered, and triturated in a mechanical blender with 300 ml of 2.4N hydrochloric acid. The solid was collected, washed with 3N hydrochloric acid, stirred in 400 ml of 0.5N sodium carbonate, and filtered. The filtrate, diluted with 250 ml of water, was gradually acidified with 4N hydrochloric acid. The precipitate was collected, washed with water, and dried to 38.5 g (79%) of the red title compound, mp 205-213 degrees. A purified sample, from toluene, melts at 212-215 degrees.

reactant | p-anisidine | 0.60 mol, 74 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | 2,6-dichloro-3-nitrobenzoic acid | 0.15 mol, 35.4 g | ClC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
product | 6-Chloro-2-[(4-methoxyphenyl)amino]-3-nitrobenzoic acid | ClC1=CC=C(C(=C1C(=O)O)NC1=CC=C(C=C1)OC)[N+](=O)[O-] | C14H11ClN2O5
